US04279902
C. N,N-Dipropyl-2-[[tetrahydro-5-(hydroxymethyl)-2-furanyl]methoxy]acetamide
To a solution of 10.9 g of N,N-dipropyl-2-[[tetrahydro-5-[(phenylmethoxy)methyl]-2-furanyl]methoxy]acetamide (0.03 mole) in 125 ml of glacial acetic acid is added 2.5 g of 10% palladium on carbon. The mixture is hydrogenated at 55 psi over a period of 18 hours (debenzylation reaction taking up 98% of the calculated theory). The mixture is removed and the Pd/C filtered through a pad of "celite" filter aid. The acetic acid is then removed in vacuo yielding a pale yellow oil. The resulting oil is dissolved in 100 ml of ethanol and evaporated. The oil is then redissolved in ethanol and again evaporated in vacuo. The oil is then taken up in 200 ml of chloroform and washed with 100 ml of saturated NaHCO3 solution, 150 ml of water and finally with 200 ml of saturated NaCl solution. The CHCl3 layer is separated, dried over anhydrous Na2SO4 and then the CHCl3 is removed in vacuo yielding 7.6 g of crude product whih is vacuum distilled and the fraction distilling at 180°-183° @ 0.4 mm is collected yielding 7.1 g (87%) of the above compound.

reactant | N,N-dipropyl-2-[[tetrahydro-5-[(phenylmethoxy)methyl]-2-furanyl]methoxy]acetamide | 0.03 mole, 10.9 g | C(CC)N(C(COCC1OC(CC1)COCC1=CC=CC=C1)=O)CCC | C21H33NO4
solvent | acetic acid | 125 ml | C(C)(=O)O | C2H4O2
catalyst | palladium on carbon | 2.5 g | [Pd] | Pd
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | N,N-Dipropyl-2-[[tetrahydro-5-(hydroxymethyl)-2-furanyl]methoxy]acetamide | 7.1 g, 87% | C(CC)N(C(COCC1OC(CC1)CO)=O)CCC | C14H27NO4
